US08232286B2
(4-HYDRAZINO-PHENYL)-ACETIC ACID HYDROCHLORIDE
15.1 g (10.0 mmol) 4-aminophenylacetic acid are placed in a solution of 10.6 g (10.0 mmol) sodium carbonate in 100 ml of water. The mixture is cooled to 0° C., then 6.9 g (10.0 mmol) sodium nitrite in 50 ml of water are added. This mixture is added dropwise to 100 ml of conc. hydrochloric acid while being cooled, then stirred for 0.1 hours. 45.1 g (20.0 mmol) tin(II)-chloride in 40 ml of conc. hydrochloric acid are added dropwise with vigorous stirring, during which time a precipitate is formed. The reaction mixture is stirred for 1 hour at ambient temperature, then suction filtered. The precipitate is washed with water and dried.

reactant | 4-aminophenylacetic acid | 10.0 mmol, 15.1 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | sodium carbonate | 10.0 mmol, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium nitrite | 10.0 mmol, 6.9 g | N(=O)[O-].[Na+]
reactant | tin(II)-chloride | 20.0 mmol, 45.1 g | [Sn](Cl)Cl
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | (4-HYDRAZINO-PHENYL)-ACETIC ACID HYDROCHLORIDE | Cl.N(N)C1=CC=C(C=C1)CC(=O)O | InChI=1S/C8H10N2O2.ClH/c9-10-7-3-1-6(2-4-7)5-8(11)12;/h1-4,10H,5,9H2,(H,11,12);1H
